US08357703B2
6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
As described for example 31e, 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (708 mg, 1.5 mmol) was converted, using 2-amino-2-methyl-1-propanol instead of isopropylamine, to the title compound (340 mg, 58%) which was obtained as a white solid after purification by chromatography (silica, 0 to 4% methanol in dichloromethane). MS: m/e=388.4 [M+H]+.

reactant | 6-(3-cyclohexyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 1.5 mmol, 708 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCCC1)=O | C18H22N2O4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-((3-Cyclohexyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 340 mg, 58% | C1(CCCCC1)C1=NOC(=C1COC1=NC=C(C(=O)NC(CO)(C)C)C=C1)C | C21H29N3O4
